US06794397B2
6-Chloro-N-(2-methoxy-5-pyridyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 5-amino-2-methoxypyridine as a pink solid as described in Example 1. 1H NMR (CDCl3): 8.87 (d, J=2.1, 1H), 8.28 (d, J=3.0, 1H), 8.20-8.17 (m, 1H), 7.99-7.96 (m, 1H), 7.67 (s, 1H), 7.49 (d, J=8.7, 1H), 6.81 (d, J=8.7, 1H), 3.95 (s, 3H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 5-amino-2-methoxypyridine | NC=1C=CC(=NC1)OC | C6H8N2O
product | 6-Chloro-N-(2-methoxy-5-pyridyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC=1C=CC(=NC1)OC | C12H10ClN3O2
